Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.59271521468
[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([C:3](=[O:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.08646574675
[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.12492948
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1],5.95833819333
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.11635941519
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.1532264274400004
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10],-4.4850438883
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.06406862597
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[O:10][H:11].[H:7],4.93880919299
[C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.10063993424
[O:1]=[C:2][O:3][H:4]>>[H:4].[O:1]=[C:2]=[O:3],0.335115681087
[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-3.56130600691
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],6.4845938506300005
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],3.2593948382200004
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.5943857944
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[O:12][H:13],2.80534265661
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.96111341292
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3],5.10583569914
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]=[C:11]([H:12])[H:13].[H:8],4.01843759922
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:5],4.8821657079400005
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][H:6],1.19853054078
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:4],2.04029374565
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],3.36330037624
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.90111441189
[O:1][C@@:2]1([H:3])[C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:9]([O:8][C:4]=[C:5]([H:6])[H:7])([H:10])[H:11],0.0996298942391
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.64487237089
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11].[H:1][C:2],7.15626219536
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],1.69519996
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.3130027710100003
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.3476175769999998
